US06403586B1
Preparation of 6-(3-Chloro-4-methoxyphenyl)-2-cyclopropylmethyl-4-methoxycarbonyl-2H-pyridazin-3-one
Using 6-(3-chloro-4-methoxyphenyl)-4-methoxycarbonyl-2H-pyridazin-3-one and (chloromethyl)cyclopropane as starting materials, the procedure of Example 1 were repeated likewise, whereby the title compound was obtained in a yield of 72.7%.

reactant | 6-(3-chloro-4-methoxyphenyl)-4-methoxycarbonyl-2H-pyridazin-3-one | ClC=1C=C(C=CC1OC)C=1C=C(C(NN1)=O)C(=O)OC | C13H11ClN2O4
reactant | (chloromethyl)cyclopropane | ClCC1CC1 | C4H7Cl
product | 6-(3-Chloro-4-methoxyphenyl)-2-cyclopropylmethyl-4-methoxycarbonyl-2H-pyridazin-3-one | yield of 72.7% | ClC=1C=C(C=CC1OC)C=1C=C(C(N(N1)CC1CC1)=O)C(=O)OC | C17H17ClN2O4
